US08048909B2
1-{1-[(4-Chlorophenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine hydrochloride
To a solution (7 mL) of tert-butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate (70 mg) in N,N-dimethylformamide was added sodium hydride (60% in oil, 13 mg) and the mixture was stirred for 30 min. 4-Chlorobenzenesulfonyl chloride (62 mg) was added at room temperature and the mixture was stirred for 1 hr. To the reaction mixture was added ice water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→4:1), and dissolved in methanol (10 mL). 4 mol/L Hydrogen chloride-ethyl acetate solution (1.5 mL) was added and the mixture was stirred at 65° C. for 30 min. The reaction mixture was concentrated under reduced pressure, and crystallized from ethyl acetate to give the title compound as pale-red crystals (yield 39 mg, 40%).

reactant | tert-butyl methyl[(5-phenyl-1H-pyrrol-3-yl)methyl]carbamate | 7 mL, 70 mg | CN(C(OC(C)(C)C)=O)CC1=CNC(=C1)C1=CC=CC=C1 | C17H22N2O2
reactant | sodium hydride | 13 mg | [H-].[Na+]
reactant | 4-Chlorobenzenesulfonyl chloride | 62 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-{1-[(4-Chlorophenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine hydrochloride | yield 39 mg, 40% | Cl.ClC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CNC | InChI=1S/C18H17ClN2O2S.ClH/c1-20-12-14-11-18(15-5-3-2-4-6-15)21(13-14)24(22,23)17-9-7-16(19)8-10-17;/h2-11,13,20H,12H2,1H3;1H
